US04337256
Ethyl-2-[1-(4-chlorophenyl)isoquinolin-5-yl]-2-cyanopropionate (1.0 g) was heated over an oil bath at 150° C. together with 2 ml of conc. sulfuric acid, 4 ml of acetic acid and 2 ml of water. After the reaction, the reaction mixture was poured into water. The pH of the mixture was adjusted to 4 with a 1 N aqueous solution of sodium hydroxide. The crystals that precipitated were extracted with dichloromethane, and dried over anhydrous sodium sulfate. The solvent was distilled off, and the residue was recrystallized from dichloromethane-hexane to afford 2-[1-(4-chlorophenyl)isoquinolin-5-yl]propionic acid as colorless prisms having a melting point of 199.5° to 202.0° C.

reactant | Ethyl-2-[1-(4-chlorophenyl)isoquinolin-5-yl]-2-cyanopropionate | 1.0 g | C(C)OC(C(C)(C#N)C1=C2C=CN=C(C2=CC=C1)C1=CC=C(C=C1)Cl)=O | C21H17ClN2O2
reactant | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | water | 2 ml | O | H2O
product | 2-[1-(4-chlorophenyl)isoquinolin-5-yl]propionic acid | ClC1=CC=C(C=C1)C1=NC=CC2=C(C=CC=C12)C(C(=O)O)C | C18H14ClNO2
